US06369235B1
2-(2,6-Difluorophenyl)-4-ethylbenzimidazole (4010) (0.70 g, 2.71 mmol) was reacted with 2,6-difluoro-a-bromo-toluene (0.72 g, 3.48 mmol, 130 M%). The crude product was purified by flash chromatography eluting with 2% MeOH/CH2Cl2 and recrystallization from diethylether/hexane (3:1), yielding white crystals of 1-(2,6-Difluorobenzyl)-2-(2,6-difluorophenyl)-4-ethylbenzimidazole (4011) (0.79 g, 2.06 mmol, 76% yield). M.p. 165-166° C. 1H-NMR (200 MHz, CD2Cl2): δ7.53 (m, 1H, H4′), 7.32 (d, J=8.2 Hz, 1H, H5), 7.29-7.16 (m, 2H, H6,4″), 7.14-7.01 (m, 1H, H7), 7.07 (m, 2H, H3′,5′), 6.81 (m, 2H, H3″,5″), 5.33 (s, 2H, CH2), 3.07 (q, J=7.6 Hz, 2H, CH2), 1.35 (t, J=7.6 Hz, 3H, CH3).

reactant | 2-(2,6-Difluorophenyl)-4-ethylbenzimidazole | 2.71 mmol, 0.70 g | FC1=C(C(=CC=C1)F)C=1NC2=C(N1)C=CC=C2CC | C15H12F2N2
reactant | 2,6-difluoro-a-bromo-toluene | 3.48 mmol, 130 M, 0.72 g | FC1=C(C(=CC=C1)F)CBr | C7H5BrF2
product | 1-(2,6-Difluorobenzyl)-2-(2,6-difluorophenyl)-4-ethylbenzimidazole | 2.06 mmol, 0.79 g, 76% yield | FC1=C(CN2C(=NC3=C2C=CC=C3CC)C3=C(C=CC=C3F)F)C(=CC=C1)F | C22H16F4N2
